US04143047
2-(N-Ethyl-acetamido)-4,5-dimethyloxazole
N-Ethyl-acetamide (10.0 g, 0.115 m) in dry butyl hexyl ether (50 ml) was stirred at room temperature under nitrogen during the dropwise addition of a 1.445 M solution of n-butyl lithium in hexane (79.6 ml, 0.115 m). After the addition, the mixture was stirred for 15 minutes and then a solution of 4,5-dimethyl-2-methylsulphonyloxazole (20.0 g, 0.114 m) in dry butyl hexyl ether (50 ml) was added dropwise. The mixture was stirred for 2 hours at room temperature. Isolation of the product and distillation gave a colourless oil, b.p. 61°-62° C/0.3 mm.

reactant | N-Ethyl-acetamide | 10.0 g | C(C)NC(C)=O | C4H9NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4,5-dimethyl-2-methylsulphonyloxazole | 20.0 g | CC=1N=C(OC1C)S(=O)(=O)C | C6H9NO3S
solvent | butyl hexyl ether | 50 ml | C(CCCCC)OCCCC | C10H22O
solvent | hexane | 79.6 ml | CCCCCC | C6H14
solvent | butyl hexyl ether | 50 ml | C(CCCCC)OCCCC | C10H22O
product | 2-(N-Ethyl-acetamido)-4,5-dimethyloxazole | C(C)N(C(C)=O)C=1OC(=C(N1)C)C | C9H14N2O2
